US05686482
(Alternative method) A 2.00 g portion of 2,4-dimethoxybenzoic acid was dissolved in 30 ml of sulfuric acid, and 0.49 ml of concentrated nitric acid was added under ice-cooling. After 3 hours of stirring at room temperature, this was poured into 100 g of ice water, and the thus formed crystals were collected by filtration, washed with water-methanol and then dried under a reduced pressure to give 1.41 g of 2,4-dimethoxy-5-nitrobenzoic acid. The physicochemical properties were identical to those of the compound obtained by the former method.

reactant | 2,4-dimethoxybenzoic acid | COC1=C(C(=O)O)C=CC(=C1)OC | C9H10O4
reactant | nitric acid | 0.49 ml | [N+](=O)(O)[O-] | HNO3
solvent | sulfuric acid | 30 ml | S(O)(O)(=O)=O | H2O4S
product | 2,4-dimethoxy-5-nitrobenzoic acid | 1.41 g | COC1=C(C(=O)O)C=C(C(=C1)OC)[N+](=O)[O-] | C9H9NO6
